US04314065
(b) Ethyl 2-{4-[N-methyl-N-(5-chloro-2-benzoxazolyl)amino]phenoxy}propionate (18)
4-[N-Methyl-N-(5-chloro-2-benzoxazolyl)amino]phenol (0.00255 mol, 0.7 g, prepared as above), ethyl 2-bromopropionate (0.00255 mol, 0.46 g) and potassium carbonate (0.00255 mol, 0.35 g) were mixed in methyl ethyl ketone (5 ml) and heated under reflux for 6 hours. The solvent was then evaporated, the residue taken into water (25 ml) and twice extracted with diethyl ether (25 ml). An oily residue was obtained which was purified by preparative thin layer chromatography on silica gel, eluent toluene/diethyl ether. Yield 0.75 g, mp 68.0°-68.6° C.; ir, and pmr spectra and analysis consistent with assigned structure.

reactant | 4-[N-Methyl-N-(5-chloro-2-benzoxazolyl)amino]phenol | 0.00255 mol, 0.7 g | CN(C=1OC2=C(N1)C=C(C=C2)Cl)C2=CC=C(C=C2)O | C14H11ClN2O2
reactant | ethyl 2-bromopropionate | 0.00255 mol, 0.46 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 0.00255 mol, 0.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 5 ml | C(C)C(=O)C | C4H8O
product | Ethyl 2-{4-[N-methyl-N-(5-chloro-2-benzoxazolyl)amino]phenoxy}propionate | CN(C=1OC2=C(N1)C=C(C=C2)Cl)C2=CC=C(OC(C(=O)OCC)C)C=C2 | C19H19ClN2O4
